US04199587
3,7,11,15,19,23,27,31,35-Nonamethyl-2,6,10,14,18,22,26,30,34-hexacontanonaenyl cyclohexyl carboxylate:
10 Grams of solanesol were dissolved in 50 ml of pyridine and the solution was added dropwise with of 15% solution of 4.6 g of cyclohexylcarboxylic acid chloride in pyridine over 30 minutes. After completion of the addition, the mixture was stirred at room temperature for two hours to complete the reaction. Then, the reaction product was diluted with n-hexane, washed with water and concentrated. The concentrate was purified by chromatography with 80 g of silica gel in n-hexane/benzene solvent mixture as elution solvent to obtain the final product as a white solid (m.p. 34.0°-35.0° C.). Yield: 6.2 g.

reactant | solanesol | CC(=CCC/C(=C/CC/C(=C/CC/C(=C/CC/C(=C/CC/C(=C/CC/C(=C/CC/C(=C/CC/C(=C/CO)/C)/C)/C)/C)/C)/C)/C)/C)C | C45H74O
reactant | cyclohexylcarboxylic acid chloride | 4.6 g | C1(CCCCC1)C(=O)Cl | C7H11ClO
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
solvent | n-hexane | CCCCCC | C6H14
product | 3,7,11,15,19,23,27,31,35-Nonamethyl-2,6,10,14,18,22,26,30,34-hexacontanonaenyl cyclohexyl carboxylate | C1(CCCCC1)C(=O)OCC=C(CCC=C(CCC=C(CCC=C(CCC=C(CCC=C(CCC=C(CCC=C(CCC=C(CCCCCCCCCCCCCCCCCCCCCCCCC)C)C)C)C)C)C)C)C)C | C76H132O2
